US09340549B2
A microwave vial was charged with 4-((S)-5,5-dimethyl-2-oxo-4-phenyloxazolidin-3-yl)cyclohex-1-en-1-yl trifluoromethanesulfonate (0.100 g, 0.238 mmol), bis(pinacolato)diboron (0.067 g, 0.262 mmol), potassium acetate (0.117 g, 1.192 mmol), and dioxane (2.0 mL). Dichloro[1,1′-bis(diphenylphosphino)-ferrocene]palladium (II) DCM adduct (0.019 g, 0.024 mmol) was added, the vial was purged with argon, and the tube was sealed. The mixture was irradiated at 100° C. in the microwave for 1 hour. The reaction mixture was filtered through Celite® brand filter aid and the filtrate was concentrated to afford a brown solid. The residual oil was purified via column chromatography on silica gel (RediSep 40 g column, gradient elution with 0-50% EtOAc-hexane) and provided (4S)-5,5-dimethyl-4-phenyl-3-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)cyclohex-3-en-1-yl)oxazolidin-2-one (0.032 g, 0.081 mmol, 33.8% yield) as a white solid. m/z (ESI) 398.4 (M+H)+.

reactant | 4-((S)-5,5-dimethyl-2-oxo-4-phenyloxazolidin-3-yl)cyclohex-1-en-1-yl trifluoromethanesulfonate | 0.238 mmol, 0.100 g | FC(S(=O)(=O)OC1=CCC(CC1)N1C(OC([C@@H]1C1=CC=CC=C1)(C)C)=O)(F)F | C18H20F3NO5S
reactant | bis(pinacolato)diboron | 0.262 mmol, 0.067 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 1.192 mmol, 0.117 g | C(C)(=O)[O-].[K+]
solvent | dioxane | 2.0 mL | O1CCOCC1 | C4H8O2
product | (4S)-5,5-dimethyl-4-phenyl-3-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)cyclohex-3-en-1-yl)oxazolidin-2-one | 0.081 mmol, 0.032 g, 33.8% yield | CC1([C@@H](N(C(O1)=O)C1CC=C(CC1)B1OC(C(O1)(C)C)(C)C)C1=CC=CC=C1)C | C23H32BNO4
